US06534522B2
A) 4-Benzylpyridine-N-oxide
A mixture of 4-benzylpyridine (5 mL, 30 mmol), acetic acid (30 mL) and 30% hydrogen peroxide (10 mL) was heated at 80-90° C. for 5 h. Concentration under reduced pressure gave an oil that was diluted with NaHCO3 (100 mL) and extracted with CH2Cl2 (2×100 mL). The collected organic phase was washed with brine (100 mL) and evaporated in vacuo to give the title compound as a colorless oil (5.68 g, 98%): 1H NMR (DMSO-d6) δ3.90 (s, 2H), 7.15-7.35 (m, 7H), 8.08 (d, J=6.3 Hz, 2H).

reactant | 4-benzylpyridine | 30 mmol, 5 mL | C(C1=CC=CC=C1)C1=CC=NC=C1 | C12H11N
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 10 mL | OO | H2O2
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | 4-Benzylpyridine-N-oxide | 5.68 g, 98% | C(C1=CC=CC=C1)C1=CC=[N+](C=C1)[O-] | C12H11NO
